US08633186B2
A 2-5 mL microwave vial containing 2-amino-6-bromobenzonitrile (1.0 eq., 1.0 mmol, 197 mg), cyclopropylboronic acid (1.3 eq., 1.3 mmol, 112 mg), and K3PO4 (3.5 eq., 3.5 mmol, 743 mg) was flushed with nitrogen. To this vial was added toluene (4 mL, Sure-Seal), water (200 μL), tricyclohexylphosphine (0.018 eq., 18.1 μmol, 88% pure, 20% in hexanes, 32 μL), and palladium (II) acetate (0.05 eq. “Pd,” trimer, 0.0167 mmol, 12 mg), all under nitrogen. The reaction vial was flushed with nitrogen, capped with a crimp-top septum, and microwaved for 30 minutes at 130° C. The reaction mixture was cooled to room temperature, partitioned between EtOAc (3 mL) and water (1 mL). The layers were separated, the water layer extracted EtOAc (2×3 mL), the combined organic layers dried over sodium sulfate. The EtOAc was filtered through a 0.45 μm PTFE fit to remove finely divided solids and concentrated on a rotary evaporator. The crude product was purified on silica gel (SiliaPrep 80 g cartridge, gradient elution from 10% EtOAc/hexanes to 40% EtOAc/hexanes, loaded in solution in 1:1 hexanes:DCM). The fractions containing product were concentrated on a rotary evaporator to give 2-amino-6-cyclopropylbenzonitrile (99 mg, 62.7%) as a waxy yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 0.668 (m, 2H), 0.979 (m, 2H), 1.978 (m, 1H), 5.882 (br. s, 2H), 6.128 (d, J=8 Hz, 1H), 6.546 (d, J=8 Hz, 1H), 7.129 (t, J=8 Hz, 1H).

reactant | 2-amino-6-bromobenzonitrile | 1.0 mmol, 197 mg, 1.0 eq. | NC1=C(C#N)C(=CC=C1)Br | C7H5BrN2
reactant | cyclopropylboronic acid | 1.3 mmol, 112 mg, 1.3 eq. | C1(CC1)B(O)O | C3H7BO2
reactant | K3PO4 | 3.5 mmol, 743 mg, 3.5 eq. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 0.0167 mmol, 12 mg, 0.05 eq. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tricyclohexylphosphine | 18.1 μmol, 32 μL, 0.018 eq. | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | water | 200 μL | O | H2O
product | 2-amino-6-cyclopropylbenzonitrile | 99 mg, 62.7% | NC1=C(C#N)C(=CC=C1)C1CC1 | C10H10N2
